US07037929B1
15 Ethyl 5-dimethylaminoimino-hexanoate
15.8 g (100 mmol) of ethyl 4-acetyl-butanoate and 6 g (100 mmol) of anhydrous N,N-dimethyl hydrazine in 50 ml of toluene containing 0.1 ml of trifluoroacetic acid were heated at 70° C. for 5 hours. The mixture was then washed 20 with water, dried over anhydrous sodium sulfate and evaporated to give 12.3 g (79% yield) of the title compound.

reactant | ethyl 4-acetyl-butanoate | 100 mmol, 15.8 g | C(C)(=O)CCCC(=O)OCC | C8H14O3
reactant | N,N-dimethyl hydrazine | 100 mmol, 6 g | CN(N)C | C2H8N2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-dimethylaminoimino-hexanoate | 12.3 g, 79% yield | CN(C)N=C(CCCC(=O)OCC)C | C10H20N2O2
